US05972943
N-(14-Nitroxytetradecyl)-6-(4-methyl-1-piperazinyl)pyridine-3-carboxamide
To sodium 6-(4-methylpiperazinyl)pyridine-3-carboxylate and 14-aminotetradecyl nitrate was added 150 ml of methylene chloride and then 6.80 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (WSCI) and 5.00 g of 1-hydroxybenzotriazole (HOBt) were added at room temperature while stirring and then the mixture was stirred at room temperature for 15 hours. The reaction solution was chromatographed over a silica gel column and the residue was purified by recrystallization to afford the title compound as a colorless crystal.

reactant | sodium 6-(4-methylpiperazinyl)pyridine-3-carboxylate | CN1CCN(CC1)C1=CC=C(C=N1)C(=O)[O-].[Na+]
reactant | 14-aminotetradecyl nitrate | [N+](=O)(OCCCCCCCCCCCCCCN)[O-] | C14H30N2O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 6.80 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 5.00 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(14-Nitroxytetradecyl)-6-(4-methyl-1-piperazinyl)pyridine-3-carboxamide | O([N+](=O)[O-])CCCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)C | C25H43N5O4
